US08912210B2
Step G: (3S,5S,6R)-3-Amino-6-methyl-1-(2,2,2-trifluoroethyl)-5-(2,3,5-trifluorophenyl)piperidin-2-one hydrochloride
A solution of tert-butyl[(3S,5S,6R)-6-methyl-2-oxo-1-(2,2,2-trifluoroethyl)-5-(2,3,5-trifluorophenyl)piperidin-3-yl]carbamate (402 mg, 0.913 mmol) in EtOAc (10 mL) was saturated with HCl (g) and aged for 30 min. The resulting mixture was concentrated in vacuo to give the title compound. MS: m/z=341.0 (M+1); 1H NMR (500 MHz, CD3OD) δ 7.20 (m, 1H), 6.94 (m, 1H), 4.78 (dq, 1H, J=15.4, 9.3 Hz), 4.26 (dd, 1H, J=12.1, 6.7 Hz), 4.08-4.00 (m, 2H), 3.73 (dq, 1H, J=15.4, 8.8 Hz), 2.57 (q, 1H, J=12.5 Hz), 2.36 (ddd, 1H, J=12.5, 6.6, 2.0 Hz), 1.07 (d, 3H, J=6.6 Hz).

reactant | tert-butyl[(3S,5S,6R)-6-methyl-2-oxo-1-(2,2,2-trifluoroethyl)-5-(2,3,5-trifluorophenyl)piperidin-3-yl]carbamate | 0.913 mmol, 402 mg | C(C)(C)(C)OC(N[C@@H]1C(N([C@@H]([C@@H](C1)C1=C(C(=CC(=C1)F)F)F)C)CC(F)(F)F)=O)=O | C19H22F6N2O3
reactant | HCl | Cl | ClH
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | (3S,5S,6R)-3-Amino-6-methyl-1-(2,2,2-trifluoroethyl)-5-(2,3,5-trifluorophenyl)piperidin-2-one hydrochloride | Cl.N[C@@H]1C(N([C@@H]([C@@H](C1)C1=C(C(=CC(=C1)F)F)F)C)CC(F)(F)F)=O | InChI=1S/C14H14F6N2O.ClH/c1-6-8(9-2-7(15)3-10(16)12(9)17)4-11(21)13(23)22(6)5-14(18,19)20;/h2-3,6,8,11H,4-5,21H2,1H3;1H/t6-,8-,11+;/m1./s1
